US07166598B2
A mixture of 4,5,6,7-tetrahydrothieno[3,2-c]pyridine (0.86 g), 2-bromoethanol (0.66 g), potassium carbonate (2.58 g) and potassium iodide (3.10 g) in N,N-dimethylformamide (20 ml) was stirred at 70° C. for 2 hours. After cooling, ethyl acetate and water were added thereto. The organic layer was separated, washed with water twice, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using a mixed solvent of methanol and dichloromethane (1:10) as an eluent. The fractions containing the objective compound were collected and evaporated under reduced pressure to give 5-(2-hydroxyethyl)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine (0.53 g) as an oil.

reactant | 4,5,6,7-tetrahydrothieno[3,2-c]pyridine | 0.86 g | S1C=CC=2CNCCC21 | C7H9NS
reactant | 2-bromoethanol | 0.66 g | BrCCO | C2H5BrO
reactant | potassium carbonate | 2.58 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 3.10 g | [I-].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(2-hydroxyethyl)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine | 0.53 g | OCCN1CC2=C(CC1)SC=C2 | C9H13NOS
